US07192968B2
(1S,2R,4S)-N2-(tert-Butoxycarbonyl)-4-(N,N-dimethylcarbamoyl)-1,2-cyclohexanediamine
(1S,2S,4R)-N1-Benzyloxycarbonyl-N2-(tert-butoxycarbonyl)-4-(N,N-dimethylcarbamoyl)-1,2-cyclohexanediamine (560 mg) was dissolved in tetrahydrofuran (100 ml), and 10% palladium on carbon (220 mg) was added to stir the mixture for 17 hours in a hydrogen atmosphere. After the catalyst was removed by filtration, the filtrate was concentrated to obtain the title compound (370 mg) as a colorless oil.

reactant | (1S,2S,4R)-N1-Benzyloxycarbonyl-N2-(tert-butoxycarbonyl)-4-(N,N-dimethylcarbamoyl)-1,2-cyclohexanediamine | 560 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@H](C[C@@H](CC1)C(N(C)C)=O)NC(=O)OC(C)(C)C | C22H33N3O5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 220 mg | [Pd] | Pd
product | (1S,2R,4S)-N2-(tert-Butoxycarbonyl)-4-(N,N-dimethylcarbamoyl)-1,2-cyclohexanediamine | 370 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC[C@@H](C1)C(N(C)C)=O)N | C14H27N3O3
